US07465726B2
4-[4-([1,2,3]Triazolo[4,5-b]pyridin-3-yloxy)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A solution of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (11.5 mg, 0.0343 mmol, 1 eq) and 1-hydroxy-7-azabenzotriazole (HOAt) (5.6 mg, 0.041 mmol, 1.2 eq) in n-butanol (1 mL) was stirred at 80° C. for 15 h. Solid that had formed during the course of the reaction was filtered over a Hirsh funnel and washed with minimal n-butanol. The filtrate was concentrated in vacuo. To a solution of the solid (3-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-3H-[1,2,3]triazolo[4,5-b]pyridine) (6.4 mg, 0.015 mmol, 1 eq) in DMSO (1 mL), di-tert-butyldicarbonate (5.0 mg, 0.023 mmol, 1.5 eq) and DiPEA (20 μL, 0.1 mmol, 7 eq) were added and the reaction was stirred at rt for 2 h. This solution was combined with the concentrated filtrate and purified on the MDPS yielding the title compound. 1H NMR (400 MHz, MeOH-d4): δ=1.51 (s, 9H), 2.64 (s, br, 2H), 3.70 (s, br, 2H), 4.17 (s, br, 2H), 6.46 (s, br, 1H), 6.74 (s, 1H), 7.61 (dd, J=8.4, 4.4 Hz, 1H), 8.13 (s, 1H), 8.61 (d, J=8.0 Hz, 1H), 8.74 (d, J=4.4 Hz, 1H). MS (ES+): m/z 435.00 (62) [MH+]. HPLC: tR=3.36 min (ZQ2000, polar—5 min).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.0343 mmol, 11.5 mg, 1 eq | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 1-hydroxy-7-azabenzotriazole | 0.041 mmol, 5.6 mg, 1.2 eq | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 3-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-3H-[1,2,3]triazolo[4,5-b]pyridine | N1CCC(=CC1)C1=CC2=C(N=CN=C2ON2N=NC=3C2=NC=CC3)N1 | C16H14N8O
reactant | di-tert-butyldicarbonate | 0.023 mmol, 5.0 mg, 1.5 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DiPEA | 0.1 mmol, 20 μL, 7 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 1 mL | C(CCC)O | C4H10O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 4-[4-([1,2,3]Triazolo[4,5-b]pyridin-3-yloxy)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2ON2N=NC=3C2=NC=CC3)N1 | C21H22N8O3
